US08071591B2
To a solution of (1S,3R)-3-(3-pyridyl)cyclopentyl acetate (5.43 g, 26.5 mmol) in MeOH (80 ml) was added 1N NaOH aq. (26 mL) at 4° C., and stirred for 2 h at same temperature. To the reaction mixture was added H2O and then extracted with CH2Cl2 four times, and the combined layers were dried over Na2SO4. After concentration under reduced pressure, the residue was purified by column chromatography (EtOAc) to yield (1S,3R)-3-(3-pyridyl)cyclopentanol (3.99 g, 92%) as colorless oil.

reactant | (1S,3R)-3-(3-pyridyl)cyclopentyl acetate | 26.5 mmol, 5.43 g | C(C)(=O)O[C@@H]1C[C@@H](CC1)C=1C=NC=CC1 | C12H15NO2
reactant | NaOH | 1N, 26 mL | [OH-].[Na+]
reactant | H2O | O | H2O
solvent | MeOH | 80 ml | CO | CH4O
product | (1S,3R)-3-(3-pyridyl)cyclopentanol | 3.99 g, 92% | N1=CC(=CC=C1)[C@H]1C[C@H](CC1)O | C10H13NO
